US07192968B2
(1R*,2S*)-N,N-Bis(tert-butoxycarbonyl)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine (Stereoisomer A and Stereoisomer B)
Ethyl 1-aminocyclopropanecarboxylate hydrochloride (1.63 g) was dissolved in dichloromethane (60 ml), and (1R*,2S*)-N,N-bis(tert-butoxycarbonyl)-4-oxo-1,2-cyclohexanediamine (3.0 g) and sodium triacetoxyborohydride (2.51 g) were added to stir the mixture at room temperature for 3 hours. An aqueous solution of sodium hydrogencarbonate was added to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1→1:1) to obtain the title compounds (Stereoisomer A: 1.43 g and Stereoisomer B: 2.17 g) as colorless amorphous solids.

reactant | Ethyl 1-aminocyclopropanecarboxylate hydrochloride | 1.63 g | Cl.NC1(CC1)C(=O)OCC
reactant | (1R*,2S*)-N,N-bis(tert-butoxycarbonyl)-4-oxo-1,2-cyclohexanediamine | 3.0 g | C(C)(C)(C)OC(=O)N([C@H]1[C@H](CC(CC1)=O)N)C(=O)OC(C)(C)C | C16H28N2O5
reactant | sodium triacetoxyborohydride | 2.51 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (1R*,2S*)-N,N-Bis(tert-butoxycarbonyl)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N([C@H]1[C@H](CC(CC1)NC1(CC1)C(=O)OCC)N)C(=O)OC(C)(C)C | C22H39N3O6
